US06399603B1
2-(4-Fluorophenyl)amino-4-hydroxy-6-nitroquinazoline-8-carboxylic acid.
A solution of methyl 2-(4-fluorophenyl)amino-4-hydroxy-6-nitroquinazoline-8-carboxylate (1.89 g) and lithium hydroxide monohydrate (5.182 g) in tetrahydrofuran (500 mL) and water (350 mL) was stirred at room temperature for 24 h. The reaction was acidified to pH 2 with 2 N hydrochloric acid, then was concentrated to ca. 400 mL. The yellow precipitate which formed was isolated by filtration, washed with water and dried to afford the title compound as a tan solid (1.16 g). 1H NMR (300 MHz, DMSO-d6 (w/TFA (50 uL)): 8.90 (d, J=2.6 Hz, 1H), 8.84 (d, J=2.6 Hz, 1H), 7.59 (dd, J=8.1, 4.9 Hz, 2H), 7.31 (t, J=8.8 Hz, 2H). HPLC (Method F): 5.97 min. MS (APCI+): m/z 345.

reactant | methyl 2-(4-fluorophenyl)amino-4-hydroxy-6-nitroquinazoline-8-carboxylate | 1.89 g | FC1=CC=C(C=C1)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])C(=O)OC | C16H11FN4O5
reactant | lithium hydroxide monohydrate | 5.182 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | water | 350 mL | O | H2O
product | 2-(4-Fluorophenyl)amino-4-hydroxy-6-nitroquinazoline-8-carboxylic acid | 1.16 g | FC1=CC=C(C=C1)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])C(=O)O | C15H9FN4O5
